US07923450B2
a) [4-(2,4-dimethyl-oxazol-5-yl)-phenyl]-thiourea
To a solution of 4-(2,4-dimethyl-oxazol-5-yl)-phenylamine (470 mg, 2.5 mmol, CAS 100060-02-41) in tetrahydrofurane (20 mL) was added benzoyl isothiocyanate (449 mg, 2.8 mmol). The reaction was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residue was suspended in methanol (30 mL). Potassium carbonate (1036 mg, 7.5 mmol) dissolved in water (15 mL) was added drop wise to the suspension. The reaction was stirred at room temperature over night. The resulting solution was evaporated and the residue was stirred with water. The precipitate was filtered off, washed twice with water and twice with diethyl ether. The residue was dissolved in tetrahydrofurane and the solvent was removed under reduced pressure to yield the title compound as an off-white solid (420 mg, 68%). MS ISP (m/e): 248.1 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.80 (s, 1H, NH), 7.55 (d, 2H), 7.50 (d, 2H), 2.41 (s, 3H), 2.29 (s, 3H).

reactant | 4-(2,4-dimethyl-oxazol-5-yl)-phenylamine | 2.5 mmol, 470 mg | CC=1OC(=C(N1)C)C1=CC=C(C=C1)N | C11H12N2O
reactant | benzoyl isothiocyanate | 2.8 mmol, 449 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Potassium carbonate | 7.5 mmol, 1036 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofurane | 20 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | [4-(2,4-dimethyl-oxazol-5-yl)-phenyl]-thiourea | 420 mg, 68% | CC=1OC(=C(N1)C)C1=CC=C(C=C1)NC(=S)N | C12H13N3OS
